US07842696B2
DIPEA (149.8 mg, 0.2 mL, 1.15 mmol) was added to a stirred solution of 6-bromo-pyridine-2-carboxylic acid (52.03 mg, 0.25 mmol) in DMF (3 mL). HOBT (38.2 mg, 0.28 mmol) and EDCI (123 mg, 0.34 mmol) were then added at room temperature. After 2 minutes, Biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide (100 mg, 0.30 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 80% EtOAc in Hexane as eluent) to afford 32 mg (24.6% yield) of biphenyl-4-carboxylic acid {2-[4-(6-bromo-pyridine-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS Purity: 93.11%. 1H NMR (CDCl3): δ 8.0-7.9 (d, 2H), 7.8-7.66 (m, 4H), 7.66-7.58 (m, 7H), 7.52-7.46 (t, 2H), 7.44-7.38 (m, 1H), 7.38-7.32 (m, 1H), 4.4-4.3 (dd, 2H), 3.92-3.74 (m, 6H), 3.7-3.6 (m, 2H).

reactant | DIPEA | 1.15 mmol, 0.2 mL, 149.8 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-bromo-pyridine-2-carboxylic acid | 0.25 mmol, 52.03 mg | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | HOBT | 0.28 mmol, 38.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.34 mmol, 123 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | Biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 0.30 mmol, 100 mg | O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1 | C19H21N3O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylic acid {2-[4-(6-bromo-pyridine-2-carbonyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 32 mg, 24.6% yield | BrC1=CC=CC(=N1)C(=O)N1CCN(CC1)C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C25H23BrN4O3
